US08648087B2
Step A: Preparation of 4-(benzyloxy)-2-chloropyridine:
To a cooled (0° C.) slurry of washed (hexanes) sodium hydride (14.07 g, 352 mmol) in THF (650 mL) was added dropwise a solution of benzyl alcohol (35.2 mL, 337 mmol) in THF (200 mL). After stirring for 15 minutes, a solution of 2-chloro-4-nitropyridine (50 g, 306 mmol) in THF (200 mL) was added dropwise. After heating to reflux for 16 hours, the black slurry was diluted with water (200 mL) and concentrated to remove the THF. The resulting mixture was diluted with more water and filtered. The filtrate was extracted with ether and ethyl acetate. The combine organics were dried and concentrated. The residue was chromatographed (10% ethyl acetate in hexanes) to provide the product as orange solid.

reactant | sodium hydride | 352 mmol, 14.07 g | [H-].[Na+]
reactant | benzyl alcohol | 337 mmol, 35.2 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-chloro-4-nitropyridine | 306 mmol, 50 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | THF | 650 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 4-(benzyloxy)-2-chloropyridine | C(C1=CC=CC=C1)OC1=CC(=NC=C1)Cl | C12H10ClNO
